* c:\fossee\esim\library\subcircuitlibrary\m5228\m5228.cir

.include PNP.lib
.include NPN.lib
.include D.lib
.include NJF.lib
q5 net-_q1-pad3_ net-_q17-pad2_ net-_q5-pad3_ Q2N2907A
q9 net-_c3-pad2_ net-_q9-pad2_ net-_q1-pad3_ Q2N2907A
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
r3  net-_j1-pad1_ net-_q5-pad3_ 8.7k
q7 net-_c3-pad2_ net-_q1-pad1_ net-_q7-pad3_ Q2N2222
q3 net-_q1-pad1_ net-_q1-pad1_ net-_c1-pad1_ Q2N2222
r1  net-_c1-pad1_ net-_c1-pad2_ 5k
r5  net-_q7-pad3_ net-_c1-pad2_ 5k
c1  net-_c1-pad1_ net-_c1-pad2_ 15p
q11 net-_j1-pad1_ net-_c3-pad2_ net-_q11-pad3_ Q2N2222
r7  net-_q11-pad3_ net-_c1-pad2_ 50k
c3  net-_c3-pad1_ net-_c3-pad2_ 15p
d1 net-_c3-pad2_ net-_c3-pad1_ 1N4148
q15 net-_c3-pad1_ net-_q11-pad3_ net-_c1-pad2_ Q2N2222
q22 net-_c1-pad2_ net-_c3-pad1_ net-_q22-pad3_ Q2N2907A
r12  net-_r11-pad2_ net-_q22-pad3_ 27
r11  net-_q21-pad3_ net-_r11-pad2_ 27
q21 net-_j1-pad1_ net-_q13-pad1_ net-_q21-pad3_ Q2N2222
r9  net-_q13-pad3_ net-_c3-pad1_ 50k
q18 net-_q13-pad1_ net-_q13-pad3_ net-_c3-pad1_ Q2N2222
q13 net-_q13-pad1_ net-_q13-pad1_ net-_q13-pad3_ Q2N2222
q17 net-_q13-pad1_ net-_q17-pad2_ net-_j1-pad1_ Q2N2907A
q25 net-_q17-pad2_ net-_q17-pad2_ net-_j1-pad1_ Q2N2907A
q27 net-_q17-pad2_ net-_j1-pad3_ net-_q27-pad3_ Q2N2222
r15  net-_q27-pad3_ net-_c1-pad2_ 5.8k
j1 net-_j1-pad1_ net-_c1-pad2_ net-_j1-pad3_ J2N3819
r17  net-_r11-pad2_ net-_r17-pad2_ 120
q30 net-_j1-pad3_ net-_j1-pad3_ net-_q29-pad1_ Q2N2222
q29 net-_q29-pad1_ net-_q29-pad1_ net-_c1-pad2_ Q2N2222
q37 net-_q33-pad3_ net-_q37-pad2_ net-_q37-pad3_ Q2N2907A
q41 net-_c7-pad2_ net-_q41-pad2_ net-_q33-pad3_ Q2N2907A
q33 net-_q33-pad1_ net-_q33-pad2_ net-_q33-pad3_ Q2N2907A
r21  net-_j1-pad1_ net-_q37-pad3_ 8.7k
q39 net-_c7-pad2_ net-_q33-pad1_ net-_q39-pad3_ Q2N2222
q35 net-_q33-pad1_ net-_q33-pad1_ net-_c5-pad1_ Q2N2222
r19  net-_c5-pad1_ net-_c1-pad2_ 5k
r23  net-_q39-pad3_ net-_c1-pad2_ 5k
c5  net-_c5-pad1_ net-_c1-pad2_ 15p
q43 net-_j1-pad1_ net-_c7-pad2_ net-_q43-pad3_ Q2N2222
r25  net-_q43-pad3_ net-_c1-pad2_ 50k
c7  net-_c7-pad1_ net-_c7-pad2_ 15p
d3 net-_c7-pad2_ net-_c7-pad1_ 1N4148
q47 net-_c7-pad1_ net-_q43-pad3_ net-_c1-pad2_ Q2N2222
q54 net-_c1-pad2_ net-_c7-pad1_ net-_q54-pad3_ Q2N2907A
r30  net-_r29-pad2_ net-_q54-pad3_ 27
r29  net-_q53-pad3_ net-_r29-pad2_ 27
q53 net-_j1-pad1_ net-_q45-pad1_ net-_q53-pad3_ Q2N2222
r27  net-_q45-pad3_ net-_c7-pad1_ 50k
q50 net-_q45-pad1_ net-_q45-pad3_ net-_c7-pad1_ Q2N2222
q45 net-_q45-pad1_ net-_q45-pad1_ net-_q45-pad3_ Q2N2222
q49 net-_q45-pad1_ net-_q37-pad2_ net-_j1-pad1_ Q2N2907A
q57 net-_q37-pad2_ net-_q37-pad2_ net-_j1-pad1_ Q2N2907A
q59 net-_q37-pad2_ net-_j3-pad3_ net-_q59-pad3_ Q2N2222
r33  net-_q59-pad3_ net-_c1-pad2_ 5.8k
j3 net-_j1-pad1_ net-_c1-pad2_ net-_j3-pad3_ J2N3819
r35  net-_r29-pad2_ net-_r35-pad2_ 120
q62 net-_j3-pad3_ net-_j3-pad3_ net-_q61-pad1_ Q2N2222
q61 net-_q61-pad1_ net-_q61-pad1_ net-_c1-pad2_ Q2N2222
q6 net-_q10-pad3_ net-_q19-pad2_ net-_q6-pad3_ Q2N2907A
q10 net-_c4-pad2_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q10-pad3_ Q2N2907A
r4  net-_j1-pad1_ net-_q6-pad3_ 8.7k
q8 net-_c4-pad2_ net-_q2-pad1_ net-_q8-pad3_ Q2N2222
q4 net-_q2-pad1_ net-_q2-pad1_ net-_c2-pad1_ Q2N2222
r2  net-_c2-pad1_ net-_c1-pad2_ 5k
r6  net-_q8-pad3_ net-_c1-pad2_ 5k
c2  net-_c2-pad1_ net-_c1-pad2_ 15p
q12 net-_j1-pad1_ net-_c4-pad2_ net-_q12-pad3_ Q2N2222
r8  net-_q12-pad3_ net-_c1-pad2_ 50k
c4  net-_c4-pad1_ net-_c4-pad2_ 15p
d2 net-_c4-pad2_ net-_c4-pad1_ 1N4148
q16 net-_c4-pad1_ net-_q12-pad3_ net-_c1-pad2_ Q2N2222
q24 net-_c1-pad2_ net-_c4-pad1_ net-_q24-pad3_ Q2N2907A
r14  net-_r13-pad2_ net-_q24-pad3_ 27
r13  net-_q23-pad3_ net-_r13-pad2_ 27
q23 net-_j1-pad1_ net-_q14-pad1_ net-_q23-pad3_ Q2N2222
r10  net-_q14-pad3_ net-_c4-pad1_ 50k
q20 net-_q14-pad1_ net-_q14-pad3_ net-_c4-pad1_ Q2N2222
q14 net-_q14-pad1_ net-_q14-pad1_ net-_q14-pad3_ Q2N2222
q19 net-_q14-pad1_ net-_q19-pad2_ net-_j1-pad1_ Q2N2907A
q26 net-_q19-pad2_ net-_q19-pad2_ net-_j1-pad1_ Q2N2907A
q28 net-_q19-pad2_ net-_j2-pad3_ net-_q28-pad3_ Q2N2222
r16  net-_q28-pad3_ net-_c1-pad2_ 5.8k
j2 net-_j1-pad1_ net-_c1-pad2_ net-_j2-pad3_ J2N3819
r18  net-_r13-pad2_ net-_r18-pad2_ 120
q32 net-_j2-pad3_ net-_j2-pad3_ net-_q31-pad1_ Q2N2222
q31 net-_q31-pad1_ net-_q31-pad1_ net-_c1-pad2_ Q2N2222
q38 net-_q34-pad3_ net-_q38-pad2_ net-_q38-pad3_ Q2N2907A
q42 net-_c8-pad2_ net-_q42-pad2_ net-_q34-pad3_ Q2N2907A
q34 net-_q34-pad1_ net-_q34-pad2_ net-_q34-pad3_ Q2N2907A
r22  net-_j1-pad1_ net-_q38-pad3_ 8.7k
q40 net-_c8-pad2_ net-_q34-pad1_ net-_q40-pad3_ Q2N2222
q36 net-_q34-pad1_ net-_q34-pad1_ net-_c6-pad1_ Q2N2222
r20  net-_c6-pad1_ net-_c1-pad2_ 5k
r24  net-_q40-pad3_ net-_c1-pad2_ 5k
c6  net-_c6-pad1_ net-_c1-pad2_ 15p
q44 net-_j1-pad1_ net-_c8-pad2_ net-_q44-pad3_ Q2N2222
r26  net-_q44-pad3_ net-_c1-pad2_ 50k
c8  net-_c8-pad1_ net-_c8-pad2_ 15p
d4 net-_c8-pad2_ net-_c8-pad1_ 1N4148
q48 net-_c8-pad1_ net-_q44-pad3_ net-_c1-pad2_ Q2N2222
q56 net-_c1-pad2_ net-_c8-pad1_ net-_q56-pad3_ Q2N2907A
r32  net-_r31-pad2_ net-_q56-pad3_ 27
r31  net-_q55-pad3_ net-_r31-pad2_ 27
q55 net-_j1-pad1_ net-_q46-pad1_ net-_q55-pad3_ Q2N2222
r28  net-_q46-pad3_ net-_c8-pad1_ 50k
q52 net-_q46-pad1_ net-_q46-pad3_ net-_c8-pad1_ Q2N2222
q46 net-_q46-pad1_ net-_q46-pad1_ net-_q46-pad3_ Q2N2222
q51 net-_q46-pad1_ net-_q38-pad2_ net-_j1-pad1_ Q2N2907A
q58 net-_q38-pad2_ net-_q38-pad2_ net-_j1-pad1_ Q2N2907A
q60 net-_q38-pad2_ net-_j4-pad3_ net-_q60-pad3_ Q2N2222
r34  net-_q60-pad3_ net-_c1-pad2_ 5.8k
j4 net-_j1-pad1_ net-_c1-pad2_ net-_j4-pad3_ J2N3819
r36  net-_r31-pad2_ net-_r36-pad2_ 120
q64 net-_j4-pad3_ net-_j4-pad3_ net-_q63-pad1_ Q2N2222
q63 net-_q63-pad1_ net-_q63-pad1_ net-_c1-pad2_ Q2N2222
* u1  net-_r17-pad2_ net-_q1-pad2_ net-_q9-pad2_ net-_j1-pad1_ net-_q10-pad2_ net-_q2-pad2_ net-_r18-pad2_ net-_r36-pad2_ net-_q34-pad2_ net-_q42-pad2_ net-_c1-pad2_ net-_q41-pad2_ net-_q33-pad2_ net-_r35-pad2_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
